US04339602
It is known that glyoxylic acid in alkaline aqueous medium is little stable and dismutes when hot quantitatively into oxalic and glycolic acids by Cannizzaro's reaction (BOETTINGER, Ber., I880, 13 I931I). For this reason, reactions that involve glyoxylic acid in alkaline aqueous medium are achieved at a temperature lower or equal to the room temperature. Thus, in the process described in French Pat. No. 2,132,364, condensation of glyoxylic acid with phenol in excess dissolved in 10% aqueous sodium hydroxide solution is achieved at 15° to 25° C. in 36 hours. In German Pat. No. 621 567, an alkaline aqueous solution of phenol and glyoxylic acid is held several days at the room temperature to obtain racemic parahydroxymandelic acid. J. GOODMAN et Al. .,Biochem. Biophys. Acta, 1968, 156, 364.67, condense glyoxylic acid with gaiacol in 68 hours at 25° C., and J. KAMLET, U.S. Pat. No. 2,640,083 proceeds in 48 hours at 15°-20° C. to prepare racemic 4-hydroxy 3-methoxy mandelic acid. Recently, Belgian Pat. No. 867 287 has described a process for obtaining an alkaline metal salt of solid monohydrated parahydroxymandelic acid by condensing glyoxylic acid with phenol in excess in alkaline aqueous solution at a temperature slightly higher than room temperature either in 18 hours from 30° to 35° C. (example 1) or 5 hours at 35° C. (example 2), or again 8 hours at 35° C. (example 3).

reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | sodium hydroxide | [OH-].[Na+]
product | racemic parahydroxymandelic acid | OC1=CC=C(C(C(=O)O)O)C=C1 | C8H8O4
